### PR TITLE
Nat Properties

### PR DESCRIPTION
**Pull request by JasonGross**
Define `<`, `<=`, `>`, `>=`, classify the path space of `nat`, and prove that `nat` is an hSet.

Also make a module for making `is_true` a coercion.  This is one way to start off some definitions of #654.

### CODE REVIEW

**Comment by JasonGross** [comment]
Note: I have two branches that [add some more `nat` properties](https://github.com/JasonGross/HoTT/compare/HoTT:master...JasonGross:nat-more-props) and [implement chain categories `[n]` on top of that](https://github.com/JasonGross/HoTT/compare/HoTT:master...JasonGross:chain-category).  The extra properties should, I hope, be largely independent of whether we go via `is_true` or if we jump directly to the `DecidablehProp` route.

**Comment by mikeshulman** [comment]
Looks good.  Although `(n =n m) = true` and `path_b_true__of__is_true` make me want even more to at least try `DecidablehProp`.

**Comment by JasonGross** [comment]
The `(n =n m) = true` is primarily because the definition of `hProp` depends on all of `Types/`, so we don't have `hProp` available here.

File: theories/Types/Nat.v [hunk 1]
```diff
@@ -1,7 +1,74 @@
...
 
 Scheme nat_ind := Induction for nat Sort Type.
 Scheme nat_rec := Minimality for nat Sort Type.
+
+(** Much of the layout of this file is adapted from ssreflect *)
+
+(** ** Equality *)
+(** *** Boolean equality and its properties *)
+
+Fixpoint eqn (m n : nat) {struct m} :=
```
Comment (mikeshulman) [inline theories/Types/Nat.v]: `eqn` seems a potentially confusing name for this, especially in global scope.  How about something like `code_nat` (since it's essentially the codes fibration for the encode-decode)?

File: theories/Types/Nat.v [hunk 2]
```diff
@@ -1,7 +1,74 @@
...
+  match m, n with
+    | 0, 0 => true
+    | m'.+1, n'.+1 => eqn m' n'
+    | _, _ => false
+  end.
+
+Infix "=n" := eqn (at level 70, no associativity) : nat_scope.
+
+Fixpoint eqn_n {n} : (n =n n) = true :=
```
Comment (mikeshulman) [inline theories/Types/Nat.v]: This likewise I would be inclined to call something like `idcode_nat`.

File: theories/Types/Nat.v [hunk 3]
```diff
@@ -1,7 +1,74 @@
...
+
+Global Instance decidable_paths_nat : DecidablePaths nat
+  := fun n m => @decidable_equiv _ _ (@path_nat n m) _ _.
+
+Corollary hset_nat : IsHSet nat.
+Proof.
+  exact _.
+Defined.
+
+(** ** Integer ordering, and its interaction with the other operations. *)
```
Comment (mikeshulman) [inline theories/Types/Nat.v]: Should "integer" be "natural number" here?

**Comment by mikeshulman** [comment]
Modulo those comments, LGTM.

**Comment by spitters** [comment]
LGTM. I agree with @mikeshulman s suggestions.

File: theories/Types/Nat.v (hunk 3 above)
Comment (JasonGross) [inline theories/Types/Nat.v]: Yes, I was copying from ssr without thinking.  Fixed.

**Comment by JasonGross** [comment]
Comments fixed.  I will merge when travis is happy, unless there are objections.

**Comment by mikeshulman** [comment]
Go for it.
